US06194410B1
In an analogous manner to that described in Example 4, from 3-benzenesulphonyl-7-chloro-5-isopropyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine and NH3 in MeOH there was obtained 3-benzenesulphonyl-5-isopropyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p. 210-211°.

reactant | 3-benzenesulphonyl-7-chloro-5-isopropyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C(C)C)SC | C16H16ClN3O2S2
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 3-benzenesulphonyl-5-isopropyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)C(C)C)SC | C16H18N4O2S2
